* source UPDATED-COLL-PITS-OSCILLATOR-DESIGN
.EXTERNAL OUTPUT Vout
L_Lp         N41434 N41294  1nH  
X_Qm1         N41434 0 N41608 BFP520/INF
X_Qi2         N41608 N41428 N41876 BFP520/INF
C_C1         N41608 N41434  3p  TC=0,0 
V_V9         N41294 0 10Vdc
R_Ri         N41428 N41294  7.15k TC=0,0 
C_C2         0 N41608  3p  TC=0,0 
X_Qi1         N41428 N41428 N41876 BFP520/INF
V_V11         N41876 0 -10Vdc
R_R1         0 VOUT  50 TC=0,0 
L_L1         0 N44705  1.04421e-08  
C_C3         N44705 VOUT  2.08424e-13  TC=0,0 
C_C4         0 N44705  2.02955e-15  TC=0,0 
L_L2         N46288 N44705  2.03361e-09  
C_C5         N41434 N46288  1m  TC=0,0 
